US07977351B2
2-[3-(4-Methyl-piperazin-1-yl)-propyl]-7H-furo[3,4-b]pyridin-5-one
In a process similar to that described in Preparation 8, 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde (63 mg, 0.33 mmol) and 1-methylpiperazine (33 mg, 0.33 mmol) are reacted to provide the title compound as white solid (76 mg, 84%).

reactant | 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde | 0.33 mmol, 63 mg | O=C1OCC2=NC(=CC=C21)CCC=O | C10H9NO3
reactant | 1-methylpiperazine | 0.33 mmol, 33 mg | CN1CCNCC1 | C5H12N2
product | 2-[3-(4-Methyl-piperazin-1-yl)-propyl]-7H-furo[3,4-b]pyridin-5-one | 76 mg, 84% | CN1CCN(CC1)CCCC1=CC=C2C(=N1)COC2=O | C15H21N3O2
